US09126969B2
19.4 g of potassium carbonate and 11.9 g of homomorph-oline hydrochloride are added to a solution of 5 g of 4,5-difluoro-2-nitroaniline in 98 mL of anhydrous DMF. The reaction medium is heated at 80° C. using an oil bath for 2 hours. The reaction medium is cooled to ambient temperature, then 300 mL of water are added thereto, and precipitation occurs. The precipitate is filtered through sintered glass. The yellow solid is rinsed with 3 times 100 mL of water. The solid is dried in an oven at 70° C. 6.5 g of 4-fluoro-2-nitro-5-perhydro-1,4-oxazepin-4-ylphenylamine are obtained in the form of an orange solid. 1H NMR (400 MHz, DMSO-d6, δ in ppm): 1.91 (m, 2H); from 3.52 to 3.61 (m, 4H); 3.66 (m, 2H); 3.74 (m, 2H); 6.28 (d, J=8.5 Hz, 1H); 7.24 (broad s, 2H); 7.61 (d, J=15.5 Hz, 1H).

reactant | potassium carbonate | 19.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | homomorph-oline hydrochloride | 11.9 g | C1CNCCOC1.Cl
reactant | 4,5-difluoro-2-nitroaniline | 5 g | FC1=CC(=C(N)C=C1F)[N+](=O)[O-] | C6H4F2N2O2
reactant | water | 300 mL | O | H2O
solvent | DMF | 98 mL | CN(C)C=O | C3H7NO
product | 4-fluoro-2-nitro-5-perhydro-1,4-oxazepin-4-ylphenylamine | 6.5 g | FC1=CC(=C(C=C1N1CCOCCC1)N)[N+](=O)[O-] | C11H14FN3O3
